US04617302
A. Preparation of 5'-(1-oxopropyl)spiro-[cyclopropane-1,3'-[3H]indol]-2'(1'H)-one
A slurry was made from 7.5 ml of dimethylformamide and 45.5 g of anhydrous aluminum chloride. The temperature rose to 40° C. and 2.97 ml of propionyl chloride and 5.43 g of spiro[cyclopropane-1,3'-[3H]-indol]-2'(1'H)-one were added. The mixture was stirred for 2 hours at 70° C. and was slowly poured into a mixture of ice and 50 ml of concentrated hydrochloric acid. After cooling overnight, the resulting precipitate was recovered by filtration. Crystallization from ethyl acetate provided 4.9 grams of the desired subtitle intermediate, m.p. 183°-185° C.

reactant | aluminum chloride | 45.5 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | propionyl chloride | 2.97 ml | C(CC)(=O)Cl | C3H5ClO
reactant | spiro[cyclopropane-1,3'-[3H]-indol]-2'(1'H)-one | 5.43 g | N1C(C2(C3=CC=CC=C13)CC2)=O | C10H9NO
reactant | hydrochloric acid | 50 ml | Cl | ClH
solvent | dimethylformamide | 7.5 ml | CN(C=O)C | C3H7NO
product | 5'-(1-oxopropyl)spiro-[cyclopropane-1,3'-[3H]indol]-2'(1'H)-one | 4.9 grams | O=C(CC)C=1C=C2C3(C(NC2=CC1)=O)CC3 | C13H13NO2
